US07091353B2
N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-pyridylcarboxamide I-40
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added pyridine-2-carbonyl chloride hydrochloride (0.71 g, 4.0 mmol). The mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in a biphasic mixture of diethyl ether (20 ml)/20% NH4OH (20 ml) and filtered to give an off-white solid. The solid was re-slurried in methanol (20 ml) and filtered to give 0.30 g (40%) of product: mp 336–338° C.; 1H NMR (DMSO-d6) δ 11.83 (s, 1H), 11.20 (s, 1H), 8.92 (d, J=8.4 Hz, 1H), 8.81 (d, J=3.6 Hz, 1H), 8.22 (d, J=7.7 Hz, 1H), 8.15 (t, J=7.4 Hz, 1H), 7.92 (t, J=7.7 Hz, 1H), 7.77–7.72 (m, 1H), 7.65 (d, J=7.2 Hz, 1H), 5.22 (dd, J=5.2 and 12.5 Hz, 1H), 3.00–2.86 (m, 1H), 2.69–2.52(m, 2H), 2.15–2.11 (m, 1H); 13C NMR (DMSO-d6) δ 172.67, 169.67, 168.20, 166.61, 162.69, 148.83, 148.19, 138.45, 136.50, 136.16, 131.39, 127.72, 124.23, 122.46, 118.29, 116.32, 48.96, 30.91, 21.98; Anal. Calcd. For C19H14N4O5: C, 60.32; H, 3.73; N, 14.81. Found: C, 60.05; H, 3.57; N, 14.45.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | pyridine-2-carbonyl chloride hydrochloride | 4.0 mmol, 0.71 g | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-pyridylcarboxamide | 0.30 g, 40% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(=O)C1=NC=CC=C1)=O)=O | C19H14N4O5
